US07732461B2
(g) 5-oxo-1,2,3,5-tetrahydro-7-indolizinecarbaldehyde
A solution of 7-(hydroxymethyl)-2,3-dihydro-5(1H)-indolizinone (237 mg, 1.44 mmol) in acetone (12 ml) was treated with IBX (603 mg, 2.16 mmol) and heated at reflux for 1 h. The mixture was then evaporated, dissolved in dichloromethane and filtered, redissolved in dichloromethane and filtered again to provide the slightly impure desired product (238 mg, 101%)

reactant | 7-(hydroxymethyl)-2,3-dihydro-5(1H)-indolizinone | 1.44 mmol, 237 mg | OCC1=CC(N2CCCC2=C1)=O | C9H11NO2
solvent | acetone | 12 ml | CC(=O)C | C3H6O
product | 5-oxo-1,2,3,5-tetrahydro-7-indolizinecarbaldehyde | 238 mg, 101% | O=C1N2CCCC2=CC(=C1)C=O | C9H9NO2
